US05084447
A solution of 3-bromo-7-[(phenoxyacetyl)amino]-8-oxo-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl)ester (1.12 g, 2 mmol) in trimethyl phosphite (5 mL) was refluxed under nitrogen for two hours. After cooling, the reaction was poured into hexanes. The supernatant was removed and the residue purified by flash chromatography on silica gel (50% ethyl acetate/hexanes to 100% ethyl acetate) to provide 7-[(phenoxyacetyl)amino]-8-oxo-3-(dimethoxyphosphinyl)-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl)ester (300 mg; 25%):

reactant | 3-bromo-7-[(phenoxyacetyl)amino]-8-oxo-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl)ester | 2 mmol, 1.12 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2CCC1Br)NC(COC1=CC=CC=C1)=O)=O | C29H25BrN2O5
reactant | trimethyl phosphite | 5 mL | P(OC)(OC)OC | C3H9O3P
product | 7-[(phenoxyacetyl)amino]-8-oxo-3-(dimethoxyphosphinyl)-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl)ester | 300 mg, 25% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2CCC1P(=O)(OC)OC)NC(COC1=CC=CC=C1)=O)=O | C31H31N2O8P
